US05338740
2-[1-(2-Ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-yl]-benzonitrile
To a solution of 2-ethyl-5,7-dimethyl-3-(5-tributylstannanyl-indan-1-yl)-3H-imidazo[4,5-b]pyridine (264 mg, 0.48 mmol) in anhydrous dioxane (1.5 mL) was added 2-bromobenzonitrile (109 mg, 0.6 mmol) and PdCl2 (PPh3)2 (34 mg, 0.048 mmol). The reaction mixture was heated under reflux for 17 hours, cooled to 23° C. and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 30% ethyl acetate/hexanes to give 100 mg of the desired product. 1H NMR (250 MHz, CDCl3): d 7.75 (1H, m), 7.64 (1H, m), 7.55 (m, 2 H), 7.35 (t, 1 H), 7.00 (d, 1 H), 6.9 (s, 1 H), 6.6 (m, 1 H), 3.4 (m, 2 H), 2.95 (m, 1 H), 2.65 (s, 3 H), 2.58 (s, 3 H), 1.3 (t, 3 H).

reactant | 2-ethyl-5,7-dimethyl-3-(5-tributylstannanyl-indan-1-yl)-3H-imidazo[4,5-b]pyridine | 0.48 mmol, 264 mg | C(C)C1=NC=2C(=NC(=CC2C)C)N1C1CCC2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC
reactant | 2-bromobenzonitrile | 0.6 mmol, 109 mg | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2-[1-(2-Ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-yl]-benzonitrile | 100 mg | C(C)C1=NC=2C(=NC(=CC2C)C)N1C1CCC2=CC(=CC=C12)C1=C(C#N)C=CC=C1 | C26H24N4
